US08232409B2
E. 3-[5-(2-Fluoro-phenyl)-1H-benzimidazol-2-yl]-1,8-dioxa-2-aza-spiro[4.5]dec-2-ene
A solution of 1,8-dioxa-2-aza-spiro[4.5]dec-2-ene-3-carboxylic acid (2′-fluoro-3-nitro-biphenyl-4-yl)-amide (131 mg, 0.327 mmol, as prepared in the previous step) in glacial acetic acid (10 mL) was treated with Fe powder (91.2 mg, 1.36 mmol) and heated to 100° C. under a reflux condenser for 4 h. The pH of the mixture was adjusted to 7 with 6M aq NaOH. The resulting aqueous mixture was extracted three times with EtOAc (50 mL), and the combined organic layers were dried over MgSO4 and concentrated in vacuo. The residue was purified on a 40-g Sepra Si 50 SPE column (Isco system: Flow rate=25 mL/min; Eluent=EtOAc/hexanes, 1:9 v/v for 10 min, then 1:9 to 2:3 v/v over 40 min) to afford the title compound (98.8 mg, 86%) as an off-white solid. 1H-NMR (400 MHz, CDCl3) δ: 7.78-7.90 (m, 1H), 7.55-7.68 (m, 1H), 7.46-7.54 (m, 2H), 7.29-7.39 (m, 1H), 7.14-7.26 (m, 2H), 3.97 (ddd, J=11.7, 8.1, 3.4 Hz, 2H), 3.70-3.81 (m, 2H), 3.47 (s, 2H), 1.99-2.08 (m, 3H), 1.87-1.98 (m, 2H). Mass Spectrum (LCMS, ESI pos.): Calcd. for C20H18FN3O2: 352.1 (M+H). found: 352.2.

reactant | 1,8-dioxa-2-aza-spiro[4.5]dec-2-ene-3-carboxylic acid (2′-fluoro-3-nitro-biphenyl-4-yl)-amide | FC1=C(C=CC=C1)C1=CC(=C(C=C1)NC(=O)C1=NOC2(C1)CCOCC2)[N+](=O)[O-] | C20H18FN3O5
reactant | NaOH | 6M | [OH-].[Na+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
catalyst | Fe | 1.36 mmol, 91.2 mg | [Fe] | Fe
product | 3-[5-(2-Fluoro-phenyl)-1H-benzimidazol-2-yl]-1,8-dioxa-2-aza-spiro[4.5]dec-2-ene | 98.8 mg, 86% | FC1=C(C=CC=C1)C1=CC2=C(NC(=N2)C2=NOC3(C2)CCOCC3)C=C1 | C20H18FN3O2
